US08729095B2
To a 1,2-dichloroethane suspension (177 ml) of 3-amino-5-chloropyridin-2-ol (8.85 g) and tert-butyl 4-oxopiperidine-1-carboxylate (24.4 g) was added sodium triacetoxyborohydride (26.0 g), followed by stirring under heating at reflux for 4 hours. Tert-butyl 4-oxopiperidine-1-carboxylate (12.4 g) and sodium triacetoxyborohydride (13.7 g) were further added, and stirred under heating at reflux for 2 hours. After the reaction solution was brought back to room temperature, water and dichloromethane were added, and the solution was separated. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford tert-butyl 4-[(5-chloro-2-hydroxypiperidin-3-yl)amino]piperidine-1-carboxylate (12.7 g).

reactant | 1,2-dichloroethane | 177 ml | ClCCCl | C2H4Cl2
reactant | 3-amino-5-chloropyridin-2-ol | 8.85 g | NC=1C(=NC=C(C1)Cl)O | C5H5ClN2O
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 24.4 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 26.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Tert-butyl 4-oxopiperidine-1-carboxylate | 12.4 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 13.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 4-[(5-chloro-2-hydroxypiperidin-3-yl)amino]piperidine-1-carboxylate | 12.7 g | ClC1CC(C(NC1)O)NC1CCN(CC1)C(=O)OC(C)(C)C | C15H28ClN3O3
